US08227472B2
N-[5-(2,6-Dichloro-phenylcarbamoyl)-6,6-dimethyl-2,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazol-3-yl]-terephthalamic Acid (Comp. 127, A6-Z-B1)
To a solution of 5-(2,6-Dichloro-phenylcarbamoyl)-3-(4-methoxycarbonyl-benzoylamino)-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester (0.4 g, 0.74 mmol) in methanol (5 mL), 2N NaOH aqueous solution (1.00 mL, 2.00 mmol) was added and warmed to 70° C. After 4 hours stirring, water was added (20 mL) and the aqueous solution extracted with ethyl acetate (1×20 mL). The aqueous phase was acidified with 1N HCl solution and extracted with ethyl acetate (2×20 mL). The combined organic phases were dried over sodium sulphate, the solvent evaporated in vacuo yielding 0.33 g (yield 91%) of the title compound as white solid.

reactant | 5-(2,6-Dichloro-phenylcarbamoyl)-3-(4-methoxycarbonyl-benzoylamino)-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester | 0.74 mmol, 0.4 g | C(C)OC(=O)N1N=C2C(=C1NC(C1=CC=C(C=C1)C(=O)OC)=O)CN(C2(C)C)C(NC2=C(C=CC=C2Cl)Cl)=O | C26H25Cl2N5O6
reactant | NaOH | 2.00 mmol, 2N, 1.00 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | N-[5-(2,6-Dichloro-phenylcarbamoyl)-6,6-dimethyl-2,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazol-3-yl]-terephthalamic Acid | 0.33 g, yield 91% | ClC1=C(C(=CC=C1)Cl)NC(=O)N1C(C2=NNC(=C2C1)NC(C1=CC=C(C(=O)O)C=C1)=O)(C)C | C22H19Cl2N5O4
